US05451594
Step 4: Preparation of 4-trifluoromethylthio-2-nitrochlorobenzene
2-Nitro-4-trifluoromethylthioaniline (0.5 g) in dry acetonitrile (3 cm3) was added over 0.5 hr. with stirring to copper (II) chloride (0.34 g) and tert-butyl nitrite (0.32 g) in dry acetonitrile (5 cm3) at 60° C. After 1 hr. the reaction was cooled to ambient temperature, poured into water, acidified with hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water (3×50 cm3) dried (magnesium sulphate) and evaporated under reduced pressure to give the required product as an oil; M+ =257; 1H NMR (CDCl3): δ7.65(d 1H); 7.80(dd 1H); 8.20(d 1H).

reactant | 2-Nitro-4-trifluoromethylthioaniline | 0.5 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)SC(F)(F)F | C7H5F3N2O2S
reactant | tert-butyl nitrite | 0.32 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 3 cm3 | C(C)#N | C2H3N
solvent | acetonitrile | 5 cm3 | C(C)#N | C2H3N
catalyst | copper (II) chloride | 0.34 g | [Cu](Cl)Cl
product | 4-trifluoromethylthio-2-nitrochlorobenzene | FC(SC1=CC(=C(C=C1)Cl)[N+](=O)[O-])(F)F | C7H3ClF3NO2S
